US05013477
2.65 g of ethyltriphenylphosphonium bromide were suspended in 40 ml of tert.butyl methyl ether while gassing with argon. The suspension was treated at room temperature with 797 mg of potassium tert.butylate and stirred for 1 hour. The mixture was subsequently cooled to 0° C., treated dropwise within 3 minutes with a solution of 1.1 g of 3-[trans-4-(trans-4-methoxycyclohexyl)cyclohexyl]propionaldehyde in 15 ml of tert.butyl methyl ether and then left to warm slowly to room temperature while stirring. After 2 hours the pale yellow suspension was partitioned between diethyl ether and water. The aqueous phase was separated and washed three times with diethyl ether. The organic phases were washed twice with water, dried over magnesium sulfate, filtered and evaporated. Chromatographic purification of the yellow, solid crude product on silica gel with ethyl acetate/petroleum ether (vol. 3:97) gave 0.91 g of trans-4-(3-pentenyl)-1-(trans-4-methoxycyclohexyl)cyclohexane with a Z/E ratio of 86:11.

reactant | 3-[trans-4-(trans-4-methoxycyclohexyl)cyclohexyl]propionaldehyde | 1.1 g | CO[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC=O | C16H28O2
reactant | tert.butyl methyl ether | 40 ml | COC(C)(C)C | C5H12O
reactant | tert.butyl methyl ether | 15 ml | COC(C)(C)C | C5H12O
catalyst | ethyltriphenylphosphonium bromide | 2.65 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | trans-4-(3-pentenyl)-1-(trans-4-methoxycyclohexyl)cyclohexane | 0.91 g | C(CC=CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)OC | C18H32O
